US06194406B1
1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(3-chlorophenyl)pyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(3-chlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine (0.82 g, 1.65 mmol), 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt (1.04 g, 1.91 mmol), and N,N-diisopropylethylamine (1.3 mL, 7.43 mmol) in acetonitrile (50 mL). Heat to reflux. After 2 days, cool and dilute the reaction mixture with ethyl acetate (300 mL). Extract with a saturated aqueous sodium bicarbonate solution and then brine. Dry over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 24% methanol/ethyl acetate containing concentrated aqueous ammonia (20 mL/3 L) to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(3-chlorophenyl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | 1.65 mmol, 0.82 g | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC(=CC=C2)Cl)C=C(C1OC)OC | C23H28ClNO7S
reactant | 4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepane hydriodic acid salt | 1.91 mmol, 1.04 g | I.C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCNCCC2
reactant | N,N-diisopropylethylamine | 7.43 mmol, 1.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methanol ethyl acetate | 20 mL | CO.C(C)(=O)OCC
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 1-(3,4,5-Trimethoxybenzoyl)-3-(2-(4-(1-(2-ethoxyethyl)-1H-benzimidazol-2-yl)[1,4]diazepan-1-yl)ethyl)-3-(3-chlorophenyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC(=CC=C2)Cl)CCN2CCN(CCC2)C2=NC3=C(N2CCOCC)C=CC=C3)C=C(C1OC)OC | C38H48ClN5O5
